US07544695B2
N-(4-Aminobiphenyl-3-yl)-4-(2,8-diazaspiro[4,5]dec-2-ylcarbonyl)benzamide
To a solution of stirring terephthaloyl chloride (338 mg, 1.664 mmol) in 20 mL dichloromethane was added tert-butyl (3-aminobiphenyl-4-yl)carbamate (473 mg, 1.664 mmol) slowly over a period of 10 minutes, followed by the addition of diisopropylethylamine (290 μL, 1.664 mmol). The reaction mixture was allowed to stir for 30 min. at room temperature. Tert-butyl 1,8-diazaspiro[4,5]decane-1-carboxylate (400 mg, 1.664 mmol) was then added, followed by the addition of diisopropylethylamine (290 μL, 1.664 mmol). The reaction mixture was allowed to stir for 1 hour at room temperature. The reaction mixture became cloudy. Argonaut MP-Carbonate scavenging resin (1.72 g, 4.992 mmol) was then added and stirred overnight at room temperature. The mixture was then fully dissolved by adding 20 mL dimethylformamide, filtered from scavenging resin, and concentrated. Added dichloromethane (4 mL) and stirred to form suspension, then treated with trifluoroacetic acid (4 mL). The reaction mixture was concentrated after 2 hours of stirring at room temperature and the crude residue was purified by reverse-phase chromatography (5-70-95% acetonitrile/water with 0.1% formic acid). The appropriate fractions were combined and lyophilized. MS (ESI+): cal'd [M+H]+ 455.2, obs'd 455.1.

reactant | terephthaloyl chloride | 1.664 mmol, 338 mg | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | tert-butyl (3-aminobiphenyl-4-yl)carbamate | 1.664 mmol, 473 mg | NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H20N2O2
reactant | diisopropylethylamine | 1.664 mmol, 290 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Tert-butyl 1,8-diazaspiro[4,5]decane-1-carboxylate | 1.664 mmol, 400 mg | N1(CCCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | diisopropylethylamine | 1.664 mmol, 290 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Carbonate | C([O-])([O-])=O
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-(4-Aminobiphenyl-3-yl)-4-(2,8-diazaspiro[4,5]dec-2-ylcarbonyl)benzamide | NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)C(=O)N1CC2(CC1)CCNCC2)=O | C28H30N4O2
